US06897231B2
A. Isoxazol-5-yl-N-(3-{1-perhydro-2H-pyran-2-yl-5[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)carboxamide
To a solution of 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine (0.150 g, 0.248 mmol) in 2.5 mL of tetrahydrofuran was added isoxazole-5-carbonyl chloride (0.066 g, 0.496 nimol), followed by triethyl amine (0.173 mL, 1.24 mmol). The reaction was stirred at room temperature overnight. The reaction mixture was then partitioned between ethyl acetate and water. The crude material that was obtained from evaporation of the extracts was not purified further. (Yield not calculated) ES-MS (m/z) 698 [M+H]+.

reactant | 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine | 0.248 mmol, 0.150 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)N | C39H34N6O
reactant | isoxazole-5-carbonyl chloride | 0.066 g | O1N=CC=C1C(=O)Cl | C4H2ClNO2
reactant | triethyl amine | 1.24 mmol, 0.173 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | Isoxazol-5-yl-N-(3-{1-perhydro-2H-pyran-2-yl-5[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)carboxamide | O1N=CC=C1C(=O)NC1=CC(=CC=C1)C1=NN(C2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1 | C43H35N7O3
